US04077930
Acrylamide/2-Methacryloyloxyethyl Trimethyl Ammonium Methosulfate (95/5 Mole Percent, Batch)
Acrylamide (AM) (49.6 g.), 2-methacryloyloxyethyl trimethyl ammonium methosulfate (METAMS) (26.0 g. of a 40% aqueous solution), distilled water (44.4 g.), Tween 85 (30.0 g.), and Mentor 28 (50.0 g.) were combined and reacted according to the procedure of Example 31. The pH of the emulsion was adjusted to 6.0; the maximum temperature reached was 71° C; the product was a stable emulsion.

reactant | Acrylamide | 49.6 g | C(C=C)(=O)N | C3H5NO
reactant | 2-methacryloyloxyethyl trimethyl ammonium | C(C(=C)C)(=O)OCC[N+](C)(C)C
product | Acrylamide 2-Methacryloyloxyethyl Trimethyl Ammonium | C(C=C)(=O)N.C(C(=C)C)(=O)OCC[N+](C)(C)C | InChI=1S/C9H18NO2.C3H5NO/c1-8(2)9(11)12-7-6-10(3,4)5;1-2-3(4)5/h1,6-7H2,2-5H3;2H,1H2,(H2,4,5)/q+1;
